US07102008B2
10% Pd/C was added to a degassed solution of 3-(4-benzyloxy-phenyl)-3-hydroxy-2-methyl-propionic acid methyl ester (0.335 g, 1.1 mmol) in methanol (30 mL) and charged to 50 PSI hydrogen, then shaken for 2.5 h. The reaction was filtered to remove the catalyst and concentrated to give 3-hydroxy-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester (0.242 g, 100%) as an oil. MS found: (M+H)+=211.

reactant | 3-(4-benzyloxy-phenyl)-3-hydroxy-2-methyl-propionic acid methyl ester | 1.1 mmol, 0.335 g | COC(C(C(O)C1=CC=C(C=C1)OCC1=CC=CC=C1)C)=O | C18H20O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 30 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | 3-hydroxy-3-(4-hydroxy-phenyl)-2-methyl-propionic acid methyl ester | 0.242 g, 100% | COC(C(C(C1=CC=C(C=C1)O)O)C)=O | C11H14O4
